US07842685B2
Sodium hydride (0.015 mL, 0.35 mmol) was added to a light yellow solution of (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)methanol (0.110 g, 0.29 mmol) in DMF (3.00 mL); the color changed to dark brown. The reaction mixture was treated with methyl 2-bromoacetate (0.032 mL, 0.35 mmol), and the color changed to green, then yellow, and then became cloudy. After 15 min, additional methyl 2-bromoacetate (0.032 mL, 0.35 mmol) was added, and after 15 min, the reaction mixture was quenched with NH4Cl, extracted with EtOAc, and the organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with 15-20% EtOAc/hexanes to give methyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyloxy)acetate. MS (ESI) m/z: calculated: 448.1; Observed: 449.0 (M++1).

reactant | Sodium hydride | 0.35 mmol, 0.015 mL | [H-].[Na+]
reactant | (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)methanol | 0.29 mmol, 0.110 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CO | C22H17FN2OS
reactant | methyl 2-bromoacetate | 0.35 mmol, 0.032 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl 2-bromoacetate | 0.35 mmol, 0.032 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 3.00 mL | CN(C)C=O | C3H7NO
product | methyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyloxy)acetate | FC=1C=C(COCC(=O)OC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C25H21FN2O3S
